US07465726B2
1-[6-(1-tert-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-4-aza-1-azoniabicyclo[2.2.2]octane chloride
To a stirred solution of 1M tert-butyl 4-(4-chloro-7H-pyrrolo[2,3-d]-pyrimidin-6-yl)-3,6-dihydropyridine-1(2H)-carboxylate (200 mg, 0.6 mmol) in anhydrous DMSO (0.6 mL), was added 1,4-Diaza-bicyclo[2.2.2]octane (370 mg, 3.3 mmol). The mixture was stirred under argon at rt until TLC analysis showed no starting material was present. The resulting solution containing the title compound was used directly in the next step.

reactant | tert-butyl 4-(4-chloro-7H-pyrrolo[2,3-d]-pyrimidin-6-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.6 mmol, 1M, 200 mg | ClC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C16H19ClN4O2
reactant | 1,4-Diaza-bicyclo[2.2.2]octane | 3.3 mmol, 370 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | DMSO | 0.6 mL | CS(=O)C | C2H6OS
product | 1-[6-(1-tert-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-4-aza-1-azoniabicyclo[2.2.2]octane chloride | [Cl-].C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2[N+]23CCN(CC2)CC3)N1 | InChI=1S/C22H31N6O2.ClH/c1-22(2,3)30-21(29)27-6-4-16(5-7-27)18-14-17-19(25-18)23-15-24-20(17)28-11-8-26(9-12-28)10-13-28;/h4,14-15H,5-13H2,1-3H3,(H,23,24,25);1H/q+1;/p-1
